US03975383
4-(4-phenyl-2-oxobutylsulphinyl)-1-(1-t-butoxycarbonyl-1-triphenylphosphoranylidenemethyl)-3-(triphenylmethylamino) azetidin-2-one (200 mg) was refluxed in dry dioxan (5 ml) under nitrogen for 8 hours. The mixture was evaporated to give a foam. The crude foam was chromatographed on silica gel eluting with ethyl acetate/petroleum ether mixtures to give t-butyl 3-β-phenylethyl-7-triphenylmethylamino-3-cephem-4-carboxylate-1-oxide as a yellow solid (87 mg.)

reactant | 4-(4-phenyl-2-oxobutylsulphinyl)-1-(1-t-butoxycarbonyl-1-triphenylphosphoranylidenemethyl)-3-(triphenylmethylamino) azetidin-2-one | 200 mg | C1(=CC=CC=C1)CCC(CS(=O)C1C(C(N1C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C56H53N2O5PS
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
product | t-butyl 3-β-phenylethyl-7-triphenylmethylamino-3-cephem-4-carboxylate-1-oxide | C1(=CC=CC=C1)CCC=1CS([C@H]2N(C1C(=O)OC(C)(C)C)C(C2NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C38H38N2O4S
